US06521658B1
4-methoxy-N-(3,4,5-trimethoxyphenyl)benzenesulfonamide
A solution of 3,4,5-trimethoxyaniline (500 mg, 2.8 mmol) in pyridine (5 mL) was treated with 4-methoxybenzenesulfonyl chloride (564 mg, 2.8 mmol) in THF (5 mL), stirred at room temperature for 18 hours, concentrated, redissolved in THF (1 mL), treated with water with stirring, and filtered to provide 820 mg of the desired product.

reactant | 3,4,5-trimethoxyaniline | 2.8 mmol, 500 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | 4-methoxybenzenesulfonyl chloride | 2.8 mmol, 564 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-methoxy-N-(3,4,5-trimethoxyphenyl)benzenesulfonamide | 820 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C16H19NO6S
